US04250316
A solution of 2-[(3-chloro-2-pyridyl)methylthio]ethylamine (5.77 g; 28.44 mmoles) and dimethyl cyanodithioimidocarbonate [prepared according to the procedure described in J. Org. Chem., 32, 1566 (1967)] (4.16 g; 28.44 mmoles) in methanol (50 ml) was stirred at ambient temperature under a positive pressure of nitrogen for 16 hours and then at reflux for 0.5 hours to complete the reaction. The reaction mixture was evaporated under reduced pressure and the crude product was recrystallized from isopropyl alcohol with activated carbon treatment to give N-cyano-N'-{2-[(3-chloro-2-pyridyl)methylthio]ethyl}-S-methylisothiourea; mp 119.5°-121°.

reactant | 2-[(3-chloro-2-pyridyl)methylthio]ethylamine | 28.44 mmoles, 5.77 g | ClC=1C(=NC=CC1)CSCCN | C8H11ClN2S
reactant | dimethyl cyanodithioimidocarbonate | C(#N)N=C(SC)SC | C4H6N2S2
solvent | methanol | 50 ml | CO | CH4O
product | N-cyano-N'-{2-[(3-chloro-2-pyridyl)methylthio]ethyl}-S-methylisothiourea | C(#N)NC(SC)=NCCSCC1=NC=CC=C1Cl | C11H13ClN4S2
